### PR TITLE
Gauss: complete formalization of E₈ optimality in ℝ⁸

### PR DESCRIPTION
**Pull request by augustepoiroux**
## Summary

This PR completes the Lean formalization of the theorem that the optimal sphere packing in `ℝ⁸` is the `E₈` lattice packing.
The branch contains the final theorem together with all remaining dependencies, and is checked by the Lean kernel (sorry-free).

## Context

The code in this branch was generated by **Gauss** (Math Inc’s autoformalization agent) starting from the existing Sphere Packing blueprint and Lean codebase, and then packaged into this PR for review.

## Notable changes

- Completes the remaining formalization steps needed for `E₈` optimality in `ℝ⁸`
- Project-wide cleanup / proof golf (including existing files)
- Fixes a sign inconsistency in Prop. 7 (`b(t)`), with the downstream definition of `g` in Thm. 4 updated accordingly
- Migrates to the new module system
- Bumps Lean to `v4.28.0`

## Review notes

- We made a best effort to avoid overwriting parts of the codebase that changed independently on `main`. As such, some results may be duplicated.
- ~The following blueprint-linked Lean statements were commented out in this branch: `ModularForm.dimension_level_one`, `dim_gen_cong_levels`, D_qexp_tsum_pnat`,`serre_D_two_H₃`~ -> they have been added back in https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/341/changes/38876bc3f0ce59196033c79af755deb3c900906f#diff-ebf1c68f284079a6364607bb7113a4b517ffb358424f42f02a128c225340f25d

### CODE REVIEW

File: SpherePacking/ForMathlib/Intervals.lean [hunk 1]
```diff
@@ -0,0 +1,25 @@
...
+This file provides small set-theoretic identities for splitting open intervals, used to
+decompose integrability/integrals into a bounded piece and a tail.
+-/
+
+namespace SpherePacking.ForMathlib
+
+open Set
+
+/-- Split `(a, ∞)` into the bounded part `(a, b]` and the tail `(b, ∞)`, assuming `a ≤ b`. -/
+public lemma Ioi_eq_Ioc_union_Ioi {a b : ℝ} (hab : a ≤ b) :
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/Intervals.lean]: This lemma exists in mathlib as [Set.Ioc_union_Ioi_eq_Ioi](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Interval/Set/LinearOrder.html#Set.Ioc_union_Ioi_eq_Ioi)

File: SpherePacking/CohnElkies/LPBound.lean [hunk 2]
```diff
@@ -429,93 +267,273 @@ private theorem calc_steps (hd : 0 < d) (hf : Summable f) :
...
+                  _ = (1 / ZLattice.covolume P.lattice volume) *
+                      ∑' m : SchwartzMap.dualLattice (d := d) P.lattice, r m := by
+                        rw [hsum']
+                        simp
+                  _ = (1 / ZLattice.covolume P.lattice volume) *
+                      ∑' m : SchwartzMap.dualLattice (d := d) P.lattice,
+                        (𝓕 ⇑f (m : EuclideanSpace ℝ (Fin d))).re * (‖A m‖ ^ 2) := by
+                        rfl
+              -- Unfold `A` and rewrite `‖A m‖` as `norm (∑' x, ...)` (definitional).
+              simpa [A, r] using hcalc
```
Comment (dwrensha) [inline SpherePacking/CohnElkies/LPBound.lean]: In https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/302 I added a shorter proof of this section:

```suggestion
            rw [← ofReal_re (1 / ZLattice.covolume P.lattice volume *
                ∑' (m : ↥(LinearMap.BilinForm.dualSubmodule (innerₗ _) P.lattice)),
                 (𝓕 ⇑f ↑m).re * norm (∑' (x : ↑(P.centers ∩ D)),
                 cexp (2 * ↑π * I * ↑⟪(x : EuclideanSpace ℝ (Fin d)), ↑m⟫_[ℝ])) ^ 2)]
            congr 1
            push_cast
            congr! 3 with m
            rw [mul_assoc]
            apply congrArg _ _
            rw [mul_conj, Complex.normSq_eq_norm_sq]
            norm_cast
```

File: SpherePacking/CohnElkies/LPBound.lean [hunk 3]
```diff
@@ -429,93 +267,273 @@ private theorem calc_steps (hd : 0 < d) (hf : Summable f) :
...
-                ∑' (m : ↥(LinearMap.BilinForm.dualSubmodule (innerₗ _) P.lattice)),
-                 (𝓕 ⇑f ↑m).re * norm (∑' (x : ↑(P.centers ∩ D)),
-                 cexp (2 * ↑π * I * ↑⟪(x : EuclideanSpace ℝ (Fin d)), ↑m⟫_[ℝ])) ^ 2)]
-            congr 1
-            push_cast
-            congr! 3 with m
-            rw [mul_assoc]
-            apply congrArg _ _
-            rw [mul_conj, Complex.normSq_eq_norm_sq]
-            norm_cast
```
Comment (dwrensha) [inline SpherePacking/CohnElkies/LPBound.lean:447]: See my [comment below](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/341/changes#r2842274143). You deleted this proof and added a much longer proof of the same thing.

File: SpherePacking/CohnElkies/PoissonSummationLattices/UnitAddTorus.lean [hunk 4]
```diff
@@ -0,0 +1,171 @@
...
+    cases i using Fin.cases with
+    | zero =>
+        simpa using continuous_fst
+    | succ i =>
+        simpa using (continuous_apply i |>.comp continuous_snd)
+  continuous_invFun := by
+    refine (continuous_apply (0 : Fin n.succ)).prodMk ?_
+    refine continuous_pi ?_
+    intro i
+    simpa using (continuous_apply (Fin.succ i))
```
Comment (b-mehta) [inline SpherePacking/CohnElkies/PoissonSummationLattices/UnitAddTorus.lean]:
```suggestion
  toEquiv := Fin.consEquiv (fun _ ↦ α)
  continuous_toFun := by
    simp only [Fin.consEquiv]
    refine Continuous.finCons (by fun_prop) (by fun_prop)
  continuous_invFun := by fun_prop
```

File: SpherePacking/CohnElkies/LPBound.lean (hunk 3 above)
Comment (augustepoiroux) [reply SpherePacking/CohnElkies/LPBound.lean:447]: Thank you, sorry about that. We tried our best to incorporate recent changes, but failed in some places. Feel free to push more changes where needed.

File: SpherePacking/ForMathlib/Intervals.lean (hunk 1 above)
Comment (augustepoiroux) [reply SpherePacking/ForMathlib/Intervals.lean]: Nice catch! Just removed this file in a new commit: https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/341/changes/38876bc3f0ce59196033c79af755deb3c900906f#diff-ebf1c68f284079a6364607bb7113a4b517ffb358424f42f02a128c225340f25d

File: SpherePacking/CohnElkies/LPBound.lean (hunk 2 above)
Comment (augustepoiroux) [reply SpherePacking/CohnElkies/LPBound.lean]: Added back your proof in a new commit: https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/341/changes/38876bc3f0ce59196033c79af755deb3c900906f#diff-ebf1c68f284079a6364607bb7113a4b517ffb358424f42f02a128c225340f25d

File: SpherePacking/CohnElkies/LPBound.lean (hunk 3 above)
Comment (augustepoiroux) [reply SpherePacking/CohnElkies/LPBound.lean:447]: Added back your proof in a new commit: https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/341/changes/38876bc3f0ce59196033c79af755deb3c900906f#diff-ebf1c68f284079a6364607bb7113a4b517ffb358424f42f02a128c225340f25d

File: SpherePacking/CohnElkies/PoissonSummationLattices/UnitAddTorus.lean (hunk 4 above)
Comment (augustepoiroux) [reply SpherePacking/CohnElkies/PoissonSummationLattices/UnitAddTorus.lean]: Added your change in https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/341/changes/38876bc3f0ce59196033c79af755deb3c900906f#diff-ebf1c68f284079a6364607bb7113a4b517ffb358424f42f02a128c225340f25d

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 5]
```diff
@@ -62,253 +150,115 @@ theorem ResToImagAxis.Differentiable (F : ℍ → ℂ) (hF : MDifferentiable 
...
 
-One application is to cusp forms, which satisfy such exponential decay bounds.
--/
 
 /--
 If `F : ℍ → ℂ` is `O(exp(-c * im τ))` at `atImInfty` for some `c > 0`, then
 the restriction to the imaginary axis `t ↦ F(it)` is `O(exp(-c * t))` at `atTop`.
 -/
-lemma isBigO_resToImagAxis_of_isBigO_atImInfty {F : ℍ → ℂ} {c : ℝ} (_hc : 0 < c)
+lemma isBigO_resToImagAxis_of_isBigO_atImInfty {F : ℍ → ℂ} {c : ℝ}
```
Comment (seewoo5) [inline SpherePacking/ModularForms/ResToImagAxis.lean:234]: We can make this (and other theorems use this) as a separate PR; it upgrades theorem by removing unnecessary assumption.

File: SpherePacking/CohnElkies/PoissonSummationLattices/UnitAddTorus.lean (hunk 4 above)
Comment (augustepoiroux) [reply SpherePacking/CohnElkies/PoissonSummationLattices/UnitAddTorus.lean]: Quite amazed by this golf by the way. I didn't check properly yesterday and thought it was a change that got overwritten by the merge. Next time I will use the "Commit suggestion" option instead.

File: SpherePacking/ModularForms/FG/L10OverAsymptotics.lean [hunk 6]
```diff
@@ -0,0 +1,861 @@
...
+private lemma L₁₀_real_resToImagAxis : ResToImagAxis.Real L₁₀ := by
+  have hFreal : ResToImagAxis.Real F := F_pos.1
+  have hGreal : ResToImagAxis.Real G := G_pos.1
+  have hDFreal : ResToImagAxis.Real (D F) := ResToImagAxis.Real.D_of_real hFreal F_holo
+  have hDGreal : ResToImagAxis.Real (D G) := ResToImagAxis.Real.D_of_real hGreal G_holo
+  simpa [L₁₀] using
+    ResToImagAxis.Real.sub (ResToImagAxis.Real.mul hDFreal hGreal)
+      (ResToImagAxis.Real.mul hFreal hDGreal)
+
+private lemma L₁₀_over_tendsto_atImInfty :
```
Comment (seewoo5) [inline SpherePacking/ModularForms/FG/L10OverAsymptotics.lean:56]: Just as a note, this lemma (or whole file) won't be needed. This follows argument in [v1](https://arxiv.org/abs/2406.14659v1) or [v2](https://arxiv.org/abs/2406.14659v2) of my paper (2024 July), where the revised [v3](https://arxiv.org/abs/2406.14659v3) (2025 August) uses new argument that avoids computation of $q$-expansion of $\mathcal{L}_{1,0}$. The new argument is already formalized as `D_F_div_F_tendsto` in #270 and `D_G_div_G_tendsto` in #239.

File: SpherePacking/ModularForms/E2.lean [hunk 7]
```diff
@@ -1,74 +1,86 @@
-import Mathlib.Analysis.Normed.Group.Tannery
```
Comment (seewoo5) [inline SpherePacking/ModularForms/E2.lean:1]: Large amount of this file are upstreamed and probably removed after bump #332

**Review by seewoo5 — COMMENTED** [review]
For the part related to the modular form inequality (`FG.lean`, where Gauss splitted it into multiple files), it is essentially done once some open PRs are merged #248 #331 #307, so it is likely that the corresponding parts won't be needed (although there's a chance where Gauss's proof is better than current proofs). But something hasn't been formalized before is to connect the inequality `FG_ineq_1` and `FG_ineq_2` with the actual linear constraints of `a` and `b` that we definitely need - which I saw somewhere but cannot find it now (it was something like `A_ineq` or `B_ienq`).
